US04244867
8-Chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][ 1,4]benzodiazepine
A mixture of 0.2 g of 8-chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][1,4]-benzodiazepine 5-oxide, 0.2 ml of hexachlorodisilane and 10 ml of methylene chloride was allowed to sit for two days. It was then diluted with toluene and washed with 1 N sodium hydroxide solution. The organic phase was dried and evaporated. Crystallization of the residue from ether/hexane gave end product with mp 172°-174° C.

reactant | 8-chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][1,4]-benzodiazepine 5-oxide | 0.2 g | ClC=1C=CC2=C(C(=[N+](CC=3N2C(=NC3N3CCOCC3)C)[O-])C3=C(C=CC=C3)F)C1 | C22H20ClFN4O2
reactant | hexachlorodisilane | 0.2 ml | Cl[Si]([Si](Cl)(Cl)Cl)(Cl)Cl | Cl6Si2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][ 1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NC3N3CCOCC3)C)C3=C(C=CC=C3)F)C1 | C22H20ClFN4O
